US09260375B2
2-Benzyl-3-ethylmaleic anhydride
The 3-Benzyl-2-ethyl-2-hydroxysuccinic acid obtained was dissolved in acetic anhydride (35 mL) and stirred at 110° C. for 15 h. The residue obtained by evaporating the acetic anhydride of the reaction mixture under reduced pressure was subjected to silica gel column chromatography (hexane-toluene-ethyl acetate 8:3:1) to give 619 mg of the title compound as oil (yield: 79%).

reactant | 3-Benzyl-2-ethyl-2-hydroxysuccinic acid | C(C1=CC=CC=C1)C(C(C(=O)O)(O)CC)C(=O)O | C13H16O5
solvent | acetic anhydride | 35 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Benzyl-3-ethylmaleic anhydride | 619 mg, yield: 79% | C(C1=CC=CC=C1)/C=1/C(=O)OC(\C1\CC)=O | C13H12O3
